**********
* LIBRARY OF ADVANCED LINEAR DEVICES, INC. DEFINITIONS
*
*   COPYRIGHT 1991 ADVANCED LINEAR DEVICES, INC.
*   THIS LIBRARY OR ANY PART MAY BE COPIED WITHOUT THE EXPRESS OR
*   WRITTEN CONSENT OF ADVANCED LINEAR DEVICES, INC. HOWEVER, IF A CLEAN COPY 
*   OF THIS LIBRARY IS NEEDED, PLEASE CONTACT YOUR ALD REPRESENTITVE.
**********
*SRC=ALD1701;ALD1701;Opamps;Adv. Linear;
*SYM=ALD1701
* 1701 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91.
*
* CONNECTIONS:      NON-INVERTING INPUT
*                   | INVERTING INPUT
*                   | | POSITIVE POWER SUPPLY
*                   | | | NEGATIVE POWER SUPPLY
*                   | | | | OUTPUT
*                   | | | | |
.SUBCKT ALD1701     1 2 3 4 5
*
C1   11 12 4.5E-12
C2    6  7 15.00E-12
D13   1  3 DX
D41   4  1 DX
D23   2  3 DX
D32   4  2 DX
DC    5 53 DY
DE   54  5 DY
DLP  90 91 DY
DLN  92 90 DY
DP    4  3 DX
EGND 99  0 POLY(2)  3 0   4 0  0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 40E3 -40E3 40E3 40E3 -40E3
GA    6  0 11 12 500.0E-6
GCM   0  6 10 101 4.4E-9
ISS   3 10 DC 1.40E-6
ISX   3 101 DC .70E-6
HLIM 90  0 VLIM 1K
M1   11   2 10  31 MX
M2   12   1 10  31 MX
M3   121 99 101 31 MX
R2    6  9 100.0E3
RD1   4 11  15.E3
RD2   4 12  15.E3
RD3   4 121 15.E3
RO1   8  5 200
RO2   7 99 145E3
RP    3  4 20.0E3
VB    9  0 DC 0
VC    3 53 DC 75.00E-3
VE   54  4 DC 75.00E-3
VLIM  7  8 DC 0
VLP  91  0 DC 1
VLN   0 92 DC 1
VX   31  3 DC .98
.MODEL DX D(IS=1.0E-15 CJO=.3P)
.MODEL DY D(IS=1.0E-15 N=.1)
.MODEL MX PMOS (LEVEL=1 VTO=-.82 KP=45E-6 CGBO=9E-9 GAMMA=0)
.ENDS 
**********
*SRC=ALD1702;ALD1702;Opamps;Adv. Linear;
*SYM=ALD1702
* 1702 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUITS
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91.
*
* CONNECTIONS:       NON-INVERTING INPUT
*                    | INVERTING INPUT
*                    | | POSITIVE POWER SUPPLY
*                    | | | NEGATIVE POWER SUPPLY
*                    | | | | OUTPUT
*                    | | | | |
.SUBCKT ALD1702      1 2 3 4 5
*
C1   11 12 1.7E-12
C2    6  7 27.27E-12
D13   1  3 DX
D41   4  1 DX
D23   2  3 DX
D32   4  2 DX
DC    5 53 DY
DE   54  5 DY
DLP  90 91 DY
DLN  92 90 DY
DP    4  3 DX
EGND 99  0 POLY(2)  3 0   4 0  0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 37.7E3 -50E3 50E3 50E3 -50E3
GA    6  0 11 12 872E-6
GCM   0  6 10 101 19E-9
ISS   3 10 DC  5.0E-6
ISX   3 101 DC 2.5E-6
HLIM 90  0 VLIM .1K
M1   11   2 10  31 MX
M2   12   1 10  31 MX
M3   121 99 101 31 MX
R2    6  9  100E3
RD1   4 11  13.35E3
RD2   4 12  13.35E3
RD3   4 121 13.35E3
RO1   8  5  1.0E2
RO2   7 99  43.0E3
RP    3  4  4.54E3
VB    9  0 DC 0.0
VC    3 53 DC 90.00E-3
VE   54  4 DC 90.00E-3
VLIM  7  8 DC 0
VLP  91  0 DC 0.8
VLN   0 92 DC 0.8
VX   31  3 DC 1.03
.MODEL DX D(IS=1.0E-15 CJO=.3P)
.MODEL DY D(IS=1.0E-15 N=.1)
.MODEL MX PMOS (LEVEL=1 VTO=-.85 KP=116E-6 CGBO=9.0E-9 GAMMA=0)
.ENDS
**********
*SRC=ALD1703;ALD1703;Opamps;Adv. Linear;
*SYM=ALD1703
* 1703 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUITS
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91.
*
* CONNECTIONS:       NON-INVERTING INPUT
*                    | INVERTING INPUT
*                    | | POSITIVE POWER SUPPLY
*                    | | | NEGATIVE POWER SUPPLY
*                    | | | | OUTPUT
*                    | | | | |
.SUBCKT ALD1703      1 2 3 4 5
*
C1   11 12 1.7E-12
C2    6  7 27.27E-12
D13   1  3 DX
D41   4  1 DX
D23   2  3 DX
D32   4  2 DX
DC    5 53 DY
DE   54  5 DY
DLP  90 91 DY
DLN  92 90 DY
DP    4  3 DX
EGND 99  0 POLY(2)  3 0   4 0  0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 37.7E3 -50E3 50E3 50E3 -50E3
GA    6  0 11 12 872E-6
GCM   0  6 10 101 18E-9
ISS   3 10 DC  5.0E-6
ISX   3 101 DC 2.5E-6
HLIM 90  0 VLIM .1K
M1   11   2 10  31 MX
M2   12   1 10  31 MX
M3   121 99 101 31 MX
R2    6  9  100E3
RD1   4 11  13.35E3
RD2   4 12  13.35E3
RD3   4 121 13.35E3
RO1   8  5  1.0E2
RO2   7 99  43.0E3
RP    3  4  4.54E3
VB    9  0 DC 0.0
VC    3 53 DC 90.00E-3
VE   54  4 DC 90.00E-3
VLIM  7  8 DC 0
VLP  91  0 DC 0.8
VLN   0 92 DC 0.8
VX   31  3 DC -.7
.MODEL DX D(IS=1.0E-15 CJO=.3P)
.MODEL DY D(IS=1.0E-15 N=.1)
.MODEL MX PMOS (LEVEL=1 VTO=.25 KP=116E-6 CGBO=9.0E-9 GAMMA=0)
.ENDS
**********
*SRC=ALD1704;ALD1704;Opamps;Adv. Linear;
*SYM=ALD1704
* 1704 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91.
*
* CONNECTIONS:       NON-INVERTING INPUT
*                    | INVERTING INPUT
*                    | | POSITIVE POWER SUPPLY
*                    | | | NEGATIVE POWER SUPPLY
*                    | | | | OUTPUT
*                    | | | | |
.SUBCKT ALD1704      1 2 3 4 5
*
C1   11 12 1.5E-12
C2    6  7 30.E-12
D13   1  3 DX
D41   4  1 DX
D23   2  3 DX
D32   4  2 DX
DC    5 53 DY
DE   54  5 DY
DLP  90 91 DY
DLN  92 90 DY
DP    4  3 DX
EGND 99  0 POLY(2)  3 0   4 0  0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 88E3 -50E3 50E3 50E3 -50E3
GA    6  0 11 12 1200E-6
GCM   0  6 10 101 50E-9
ISS   3 10 DC  15.E-6
ISX   3 101 DC 7.5E-6
HLIM 90  0 VLIM .1K
M1   11   2 10  31 MX
M2   12   1 10  31 MX
M3   121 99 101 31 MX
R2    6  9  100E3
RD1   4 11  13.35E3
RD2   4 12  13.35E3
RD3   4 121 13.35E3
RO1   8  5  3.3E1
RO2   7 99  4.46E3
RP    3  4  4.54E3
VB    9  0 DC 0.0
VC    3 53 DC 90.00E-3
VE   54  4 DC 90.00E-3
VLIM  7  8 DC 0
VLP  91  0 DC 0.8
VLN   0 92 DC 0.8
VX   31  3 DC 1.03
.MODEL DX D(IS=1.0E-15 CJO=.3P)
.MODEL DY D(IS=1.0E-15 N=.1)
.MODEL MX PMOS (LEVEL=1 VTO=-.85 KP=116E-6 CGBO=9.0E-9 GAMMA=0)
.ENDS
**********
*SRC=ALD1706;ALD1706;Opamps;Adv. Linear;
*SYM=ALD1706
* 1706 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91.
*
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT ALD1706  1 2 3 4 5
*
C1   11 12 15.3E-12
C2    6  7 10.90E-12
D13   1  3 DX
D41   4  1 DX
D23   2  3 DX
D32   4  2 DX
DC    5 53 DY
DE   54  5 DY
DLP  90 91 DY
DLN  92 90 DY
DP    4  3 DX
EGND 99  0 POLY(2)  3 0   4 0  0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 125E3 -40E3 40E3 40E3 -40E3
GA    6  0 11 12 500E-6
GCM   0  6 10 101 2.04E-9
ISS   3 10  DC .34E-6
ISX   3 101 DC .17E-6
HLIM 90  0 VLIM 10K
M1   11   2 10  31 MX
M2   12   1 10  31 MX
M3   121 99 101 31 MX
R2    6  9 100.0E3
RD1   4 11  15.E3
RD2   4 12  15.E3
RD3   4 121 15.E3
RO1   8  5 200
RO2   7 99 47.1E3
RP    3  4 250E3
VB    9  0 DC 0
VC    3 53 DC 156E-3
VE   54  4 DC 156E-3
VLIM  7  8 DC 0
VLP  91  0 DC 2
VLN   0 92 DC 2
VX   31  3 DC .98
.MODEL DX D(IS=1.0E-15 CJO=.3P)
.MODEL DY D(IS=1.0E-15 N=.1)
.MODEL MX PMOS (LEVEL=1 VTO=-.81 KP=45E-6 CGBO=9E-9 GAMMA=0)
.ENDS
**********
*SRC=ALD4701/PB;AL4701PB;Opamps;Adv. Linear;Quad 1701- Dip Package
*SYM=AL4701PB
* 1701 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUITS
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91. 
*   4701/PB/DB/SF
.SUBCKT AL4701PB 1 2 3 4 5 6 7 8 9 10 11 12 13 14 
X1  3  2  4 11  1 ALD1701
X2  5  6  4 11  7 ALD1701
X3 10  9  4 11  8 ALD1701
X4 12 13  4 11 14 ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD4701/DB;AL4701DB;Opamps;Adv. Linear;Quad 1701- Dip Package
*SYM=AL4701DB
.SUBCKT AL4701DB 1 2 3 4 5 6 7 8 9 10 11 12 13 14 
X1  3  2  4 11  1 ALD1701
X2  5  6  4 11  7 ALD1701
X3 10  9  4 11  8 ALD1701
X4 12 13  4 11 14 ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD4701/SF;AL4701SF;Opamps;Adv. Linear;Quad 1701- Dip Package
*SYM=AL4701SF
.SUBCKT AL4701SF 1 3 5 6 8 10 12 13 15 17 19 20 22 24
X1  5  3  6 19  1 ALD1701
X2  8 10  6 19 12 ALD1701
X3 17 15  6 19 13 ALD1701
X4 20 22  6 19 24 ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2701/SB;AL2701SB;Opamps;Adv. Linear;Dual 1701
*SYM=AL2701SB
*     DEVICE PINS: . . . . .  .  .  .
.SUBCKT AL2701SB 1 2 4 6 7 10 11 12 
X1  2  1 11  4 12 ALD1701
X2  6  7 11  4 10 ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2701/PA;AL2701PA;Opamps;Adv. Linear;Dual 1701
*SYM=AL2701PA
*     DEVICE PINS: . . . . . . . .
.SUBCKT AL2701PA 1 2 3 4 5 6 7 8
X1  3  2  8  4  1 ALD1701
X2  5  6  8  4  7 ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2701/DA;AL2701DA;Opamps;Adv. Linear;Dual 1701
*SYM=AL2701DA
*     DEVICE PINS: . . . . . . . .
.SUBCKT AL2701DA 1 2 3 4 5 6 7 8
X1  3  2  8  4  1 ALD1701
X2  5  6  8  4  7 ALD1701
.ENDS 
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2701/SA;AL2701SA;Opamps;Adv. Linear;Dual 1701
*SYM=AL2701SA
*     DEVICE PINS: . . . . . . .
.SUBCKT AL2701SA 1 2 3 4 5 6 7 8
X1  3  2  8  4  1 ALD1701
X2  5  6  8  4  7 ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1701/PA;AL1701PA;Opamps;Adv. Linear;
*SYM=AL1701PA
*     DEVICE PINS: . . . . .
.SUBCKT AL1701PA 2 3 4 6 7
X1  3  2  7  4  6  ALD1701
.ENDS 
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1701/DA;AL1701DA;Opamps;Adv. Linear;
*SYM=AL1701DA
*     DEVICE PINS: . . . . .
.SUBCKT AL1701DA 2 3 4 6 7
X1  3  2  7  4  6  ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1701/SA;AL1701SA;Opamps;Adv. Linear;
*SYM=AL1701SA
*     DEVICE PINS: . . . . .
.SUBCKT AL1701SA 2 3 4 6 7
X1  3  2  7  4  6  ALD1701
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1702/DA;AL1702DA;Opamps;Adv. Linear;
*SYM=AL1702DA
* 1702 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUITS
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91. 
*
.SUBCKT AL1702DA 2 3 4 6 7 
X1  3 2 7 4 6 ALD1702
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1702/PA;AL1702PA;Opamps;Adv. Linear;
*SYM=AL1702PA
.SUBCKT AL1702PA 2 3 4 6 7
X1  3 2 7 4 6 ALD1702
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1702/SA;AL1702SA;Opamps;Adv. Linear;
*SYM=AL1702SA
.SUBCKT AL1702SA 2 3 4 6 7
X1  3 2 7 4 6 ALD1702
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1703/PA;AL1703PA;Opamps;Adv. Linear;
*SYM=AL1703PA
* 1703 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUITS
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91. 
.SUBCKT AL1703PA 2 3 4 6 7 
X1  3 2 7 4 6 ALD1703 
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1703/SA;AL1703SA;Opamps;Adv. Linear;
*SYM=AL1703SA
.SUBCKT AL1703SA 2 3 4 6 7
X1  3 2 7 4 6 ALD1703
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1703/DA;AL1703DA;Opamps;Adv. Linear;
*SYM=AL1703DA
.SUBCKT AL1703DA 2 3 4 6 7
X1  3 2 7 4 6 ALD1703
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1704/DA;AL1704DA;Opamps;Adv. Linear;
*SYM=AL1704DA
* 1704 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91. 
*
.SUBCKT AL1704DA 2 3 4 6 7
X1 3 2 7 4 6 ALD1704
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1704/PA;AL1704PA;Opamps;Adv. Linear;
*SYM=AL1704PA
.SUBCKT AL1704PA 2 3 4 6 7
X1 3 2 7 4 6 ALD1704
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1704/SA;AL1704SA;Opamps;Adv. Linear;
*SYM=AL1704SA
.SUBCKT AL1704SA 2 3 4 6 7
X1 3 2 7 4 6 ALD1704
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD4706/PB;AL4706PB;Opamps;Adv. Linear;Quad 1706 - Dip Package
*SYM=AL4706PB
* 1706 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED BY ADVANCED LINEAR DEVICES 1/16/91. 
* ALD4706/PB/DB/SF
.SUBCKT AL4706PB 1 2 3 4 5 6 7 8 9 10 11 12 13 14 
X1  3  2  4 11  1 ALD1706
X2  5  6  4 11  7 ALD1706
X3 10  9  4 11  8 ALD1706
X4 12 13  4 11 14 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD4706/DB;AL4706DB;Opamps;Adv. Linear;Quad 1706 - Dip Package
*SYM=AL4706DB
.SUBCKT AL4706DB 1 2 3 4 5 6 7 8 9 10 11 12 13 14 
X1  3  2  4 11  1 ALD1706
X2  5  6  4 11  7 ALD1706
X3 10  9  4 11  8 ALD1706
X4 12 13  4 11 14 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD4706/SF;AL4706SF;Opamps;Adv. Linear;Quad 1706 - Dip Package
*SYM=AL4706SF
.SUBCKT AL4706SF 1 3 5 6 8 10 12 13 15 17 19 20 22 24
X1  5  3  6 19  1 ALD1706
X2  8 10  6 19 12 ALD1706
X3 17 15  6 19 13 ALD1706
X4 20 22  6 19 24 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2706/DA;AL2706DA;Opamps;Adv. Linear;Dual 1706
*SYM=AL2706DA
.SUBCKT AL2706DA 1 2 3 4 5 6 7 8
X1 3 2 8 4 1 ALD1706
X2 5 6 8 4 7 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2706/PA;AL2706PA;Opamps;Adv. Linear;Dual 1706
*SYM=AL2706PA
.SUBCKT AL2706PA 1 2 3 4 5 6 7 8
X1 3 2 8 4 1 ALD1706
X2 5 6 8 4 7 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2706/SA;AL2706SA;Opamps;Adv. Linear;Dual 1706
*SYM=AL2706SA
.SUBCKT AL2706SA 1 2 3 4 5 6 7 8
X1 3 2 8 4 1 ALD1706
X2 5 6 8 4 7 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD2706/SB;AL2706SB;Opamps;Adv. Linear;Dual 1706
*SYM=AL2706SB
.SUBCKT AL2706SB 1 2 4 6 7 10 11 12
X1 2 1 11 4 12 ALD1706
X2 6 7 11 4 10 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1706/DA;AL1706DA;Opamps;Adv. Linear;
*SYM=AL1706DA
.SUBCKT AL1706DA 2 3 4 6 7
X1 3 2 7 4 6 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1706/PA;AL1706PA;Opamps;Adv. Linear;
*SYM=AL1706PA
.SUBCKT AL1706PA 2 3 4 6 7 
X1 3 2 7 4 6 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
*SRC=ALD1706/SA;AL1706SA;Opamps;Adv. Linear;
*SYM=AL1706SA
.SUBCKT AL1706SA 2 3 4 6 7
X1 3 2 7 4 6 ALD1706
.ENDS
*INCLUDE ALD_ISP.LIB
**********
